US06057369
Sodium (0.5 g, 2.2 mmol) is added to MeOH (10 mL) cooled in ice. When the reaction is complete a solution of 3,4-dimethoxybenzenethiol (6 g, 3.5 mmol) in MeOH (5 mL) is added. After 2 minutes a solution of methyl 3-methanesulfonyloxy-2,2-dimethyl-7-phenylheptanoate (3 g, 8.8 mmol) in MeOH (5 mL) is added. The cooling bath is removed and the reaction is stirred at room temperature overnight. The solvent is removed in vacuo, CH2Cl2 (50 mL) added and the solution washed with NaHCO3 (50 mL), 1 N HCl (50 mL) and brine (50 mL). The solution is dried over MgSO4 and the solvent removed in vacuo. The product is purified by column chromatography (silica, 20% ether in petroleum ether) to yield methyl 3-(3,4-dimethoxyphenylsulfanyl)-2,2-dimethyl-7-phenylheptanoate (0.65 g, 18%): 1H NMR (300 MHz, CDCl3) δ 7.29-7.24 (m, 2H), 7.19-7.11 (m, 3H), 7.02-6.91 (m, 2H), 6.77 (d, J=8.2 Hz, 1H), 3,87 (s, 3H), 3.85 (s, 3H), 3.57 (s, 3H), 3.22 (dd, J=10.0, 3.2 Hz, 1H), 2.64-2.51 (m, 3H), 1.81-1.74 (m, 1H), 1.66-1.42 (m, 4H), 1.27 (s, 3H), 1.22 (s, 3H); MS (FAB) m/e 416 (M+).

reactant | Sodium | 2.2 mmol, 0.5 g | [Na] | Na
reactant | 3,4-dimethoxybenzenethiol | 3.5 mmol, 6 g | COC=1C=C(C=CC1OC)S | C8H10O2S
reactant | methyl 3-methanesulfonyloxy-2,2-dimethyl-7-phenylheptanoate | 8.8 mmol, 3 g | CS(=O)(=O)OC(C(C(=O)OC)(C)C)CCCCC1=CC=CC=C1 | C17H26O5S
solvent | MeOH | 5 mL | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
product | methyl 3-(3,4-dimethoxyphenylsulfanyl)-2,2-dimethyl-7-phenylheptanoate | 0.65 g, 18% | COC=1C=C(C=CC1OC)SC(C(C(=O)OC)(C)C)CCCCC1=CC=CC=C1 | C24H32O4S
